US09315521B2
In a 250 mL round bottom flask, 2-chloro-4-fluorobenzaldehyde (3.15 g, 20 mmol), 1-ethylpiperazine (2.8 mL, 22 mmol), and potassium carbonate (2.76 g, 20 mmol) were dissolved in anhydrous DMF (20 mL). The mixture was heated at 100° C. for 4 hours. DMF was evaporated under vacuum. The crude product was partitioned between water (100 mL) and DCM (150 mL). The organic phase was separated, washed with water, dried over Na2SO4, and evaporated to provide nearly pure 2-chloro-4-(4-ethylpiperazin-1-yl)benzaldehyde.

reactant | 2-chloro-4-fluorobenzaldehyde | 20 mmol, 3.15 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | 1-ethylpiperazine | 22 mmol, 2.8 mL | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-(4-ethylpiperazin-1-yl)benzaldehyde | ClC1=C(C=O)C=CC(=C1)N1CCN(CC1)CC | C13H17ClN2O
